US06184180B2
Synthesis of dimethyloctadecylsulfonium iodide
In a flask equipped with a stirrer was charged 3.0 g of the crude methyloctadecylsulfide, 2.1 g of methyl iodide and 50 ml of acetone, and the mixture was stirred at room temperature for 24 hours. Precipitated crystals were collected by filtration under reduced pressure and recrystallized from acetone to obtain 3.4 g of the title compound. Melting point: 82.5° C.

reactant | methyloctadecylsulfide | 3.0 g | CSCCCCCCCCCCCCCCCCCC | C19H40S
reactant | methyl iodide | 2.1 g | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | dimethyloctadecylsulfonium iodide | 3.4 g | [I-].C[S+](CCCCCCCCCCCCCCCCCC)C | InChI=1S/C20H43S.HI/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21(2)3;/h4-20H2,1-3H3;1H/q+1;/p-1
